US08609647B2
(13) Optically-Active Compound of 3-oxo-3-[6-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1,6-diazaspiro[3.5]non-1-yl]-propionitrile
An optically-active compound of 4-(1,6-diazaspiro[3.5]non-6-yl)-7H-pyrrolo[2,3-d]pyrimidine (1.55 g) was mixed with 1-cyanoacetyl-3,5-dimethylpyrazole (1.56 g), N,N-diisopropylethylamine (1.66 ml) and 1,4-dioxane (31 ml), and the mixture was heated to 100° C. to stir for 2 hours. The mixture was cooled to room temperature. Then, thereto was added saturated aqueous sodium bicarbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride solution, and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: ethyl acetate/methanol=20/1 to 9/1) to give the titled compound (1.50 g).

reactant | 4-(1,6-diazaspiro[3.5]non-6-yl)-7H-pyrrolo[2,3-d]pyrimidine | 1.55 g | N1CCC12CN(CCC2)C=2C1=C(N=CN2)NC=C1 | C13H17N5
reactant | 1-cyanoacetyl-3,5-dimethylpyrazole | 1.56 g | CC1=CC(=NN1C(=O)CC#N)C | C8H9N3O
reactant | N,N-diisopropylethylamine | 1.66 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,4-dioxane | 31 ml | O1CCOCC1 | C4H8O2
product | 3-oxo-3-[6-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1,6-diazaspiro[3.5]non-1-yl]-propionitrile | 1.50 g | O=C(CC#N)N1CCC12CN(CCC2)C=2C1=C(N=CN2)NC=C1 | C16H18N6O
